US04772600
4-[[2-(4-Chlorophenyl)-3H-imidazo[4,5-b]pyridin-3-yl]acetyl]-1-piperazinecarboxylic acid ethyl ester
A suspension of 2-(4-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid (5.0 g, 0.0174 mole), 1,1'carbonyldiimidazole (2.82 g, 0.0174 mole), and dry tetryhydrofuran (100 ml) was stirred at room temperature for two hours with nitrogen bubbling through it. A solution of ethyl-1-piperazine carboxylate (6.9 g, 0.0435 mole) in tetrahydrofuran (6 ml) was added dropwise and the reaction mixture was stirred at 50° C. overnight under nitrogen. The solvents were removed under reduced pressure and the residual oil was triturated in water (100 ml) overnight. The resulting solid was collected by filtration, rinsed with water, dissolved in hot isopropyl alcohol, and filtered hot. Water was added to the cloud point and upon cooling to room temperature, a solid precipitated, which was collected by filtration, rinsed with water, and dried uner high vacuum to give 4.66 g (63%) of title compound, mp 184°-186° C.

reactant | 2-(4-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid | 0.0174 mole, 5.0 g | ClC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(=O)O | C14H10ClN3O2
reactant | 1,1'carbonyldiimidazole | 0.0174 mole, 2.82 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | ethyl-1-piperazine carboxylate | 0.0435 mole, 6.9 g | C(C)OC(=O)N1CCNCC1 | C7H14N2O2
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
product | 4-[[2-(4-Chlorophenyl)-3H-imidazo[4,5-b]pyridin-3-yl]acetyl]-1-piperazinecarboxylic acid ethyl ester | 4.66 g, 63% | C(C)OC(=O)N1CCN(CC1)C(CN1C(=NC=2C1=NC=CC2)C2=CC=C(C=C2)Cl)=O | C21H22ClN5O3
